US04486428
dl-1-Benzyl-5-benzyloxy-2-methyl-7-(5-phenyl-2-pentyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline
To a mixture of 0.30 mole of potassium hydride and 500 ml freshly distilled N,N-dimethylformamide (DMF) cooled to 0° C. under nitrogen and anhydrous conditions, is added dropwise a solution of 33.9 g (0.10 mole) dl-5-hydroxy-2-methyl-7-(5-phenyl-2-pentyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline in 350 ml of purified DMF at 0°-10° C. When the addition is complete, the mixture is allowed to warm to room temperature and stirred for one hour. The mixture is then cooled to 0° C., a solution of 18.81 g (0.11 mole) benzylbromide in 150 ml DMF is added slowly at 0°-10° C., the resulting mixture stirred at 5° C. for 30 minutes, then allowed to warm to room temperature and stirred overnight. The reaction is quenched by cautious addition of water, diluted with five liters ethyl ether, washed with water, brine, dried over anhydrous magnesium sulfate and the solvent evaporated in vacuo to obtain the crude product. It is purified, if desired, by column chromatography on silica gel.

reactant | potassium hydride | 0.30 mole | [H-].[K+]
reactant | dl-5 hydroxy-2-methyl-7-(5-phenyl-2-pentyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline | 0.10 mole, 33.9 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ON1C(CC(C2=CC=C(C=C12)OC(C)CCCC1=CC=CC=C1)=O)C
reactant | benzylbromide | 0.11 mole, 18.81 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DMF | 350 ml | CN(C=O)C | C3H7NO
reactant | DMF | 150 ml | CN(C=O)C | C3H7NO
product | 1-Benzyl-5-benzyloxy-2-methyl-7-(5-phenyl-2-pentyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline | C(C1=CC=CC=C1)N1C(CC(C2=C(C=C(C=C12)OC(C)CCCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)C | C35H37NO3
